US07842713B2
Preparation of Intermediate 35a: Azetidin-1-yl-(4-bromo-phenyl)-methanone
Et3N (2.00 mL, 14.3 mmol) and azetidine hydrochloride (462 mg, 4.94 mmol) were added to a solution of 4-bromobenzoyl chloride (1.07 g, 4.88 mmol) in CH2Cl2 (20 mL). The mixture was stirred at room temperature for 2 hr, diluted with CH2Cl2 (100 mL), and washed with 1N aqueous HCl (100 mL), H2O (100 mL), and brine (100 mL). The organic layer was dried over MgSO4 and concentrated to give a colorless oil (1.10 g, 94% yield). 1H NMR (400 MHz, CDCl3) δ 7.53 (ddd, J=17.43, 6.57, 2.27 Hz, 4 H) 4.21-4.32 (m, 4 H) 2.32-2.40 (m, 2 H); ); LCMS for C10H10BrNO m/z 241.00 (M+H)+.

reactant | Et3N | 14.3 mmol, 2.00 mL | CCN(CC)CC | C6H15N
reactant | azetidine hydrochloride | 4.94 mmol, 462 mg | Cl.N1CCC1
reactant | 4-bromobenzoyl chloride | 4.88 mmol, 1.07 g | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | Azetidin-1-yl-(4-bromo-phenyl)-methanone | 1.10 g, 94% yield | N1(CCC1)C(=O)C1=CC=C(C=C1)Br | C10H10BrNO
